US04206156
A mixture of diethyl 3-(N-benzyloxy-N-tosylamino)propylphosphonate (13.2 g), conc. hydrochloric acid (130 ml) and acetic acid (130 ml) was refluxed with stirring for 45 hours. The resultant mixture was concentrated under reduced pressure to give a residue and then water and an activated charcoal was added thereto, whereafter the mixture was filtered. The filtrate was concentrated under reduced pressure, and the resultant residual oil (8.59 g) was dissolved in water (25 ml). To the solution were added pyridine (2.08 g) and ethanol (5 ml), and then the mixture was allowed to stand overnight at 4° C. to give 3-(N-hydroxyamino)propylphosphonic acid (2.30 g) in the form of crystals. MP: 160°-166° C. (dec.).

reactant | diethyl 3-(N-benzyloxy-N-tosylamino)propylphosphonate | 13.2 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=CC=C(C)C=C1)CCCP(OCC)(OCC)=O | C21H30NO6PS
reactant | hydrochloric acid | 130 ml | Cl | ClH
reactant | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
reactant | charcoal | C | CH4
solvent | water | O | H2O
product | 3-(N-hydroxyamino)propylphosphonic acid | 2.30 g | ONCCCP(O)(O)=O | C3H10NO4P
